US05864039
4-Methoxy-4-tert-butoxycarbonylaminomethylpiperidine (2.3 g), 6-bromo-1-phenyl-1-hexanone (2.52 g) and potassium carbonate (2.6 g) were reacted and treated in the same manner as in Preparation Example 138(1) to give 3.35 g of 4-methoxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine.

reactant | 4-Methoxy-4-tert-butoxycarbonylaminomethylpiperidine | 2.3 g | COC1(CCNCC1)CNC(=O)OC(C)(C)C | C12H24N2O3
reactant | 6-bromo-1-phenyl-1-hexanone | 2.52 g | BrCCCCCC(=O)C1=CC=CC=C1 | C12H15BrO
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
product | 4-methoxy-1-(6-oxo-6-phenylhexyl)-4-tert-butoxycarbonylaminomethylpiperidine | 3.35 g | COC1(CCN(CC1)CCCCCC(C1=CC=CC=C1)=O)CNC(=O)OC(C)(C)C | C24H38N2O4
